US09034900B2
Step 1: 2-cyclopropyl-7-iodo-5-nitro-1-benzofuran
A solution of 2,6-diiodo-4-nitrophenol (10 g, 25.6 mmol), ethynylcyclopropane (1.9 g, 28.8 mmol) and Cu2O (1.9 mg, 13.2 mmol) in 100 mL of dry pyridine was refluxed for 2 h. The reaction mixture was poured into 1 L of water and stirred for 10 min. The resulting mixture was filtered. The cake was purified by column chromatography on silica gel eluting with EtOAc/PE (0-20%) to give the title compound (6.6 g, 78% yield) as a yellow solid. 1H NMR (CDCl3, 400 MHz): δ 8.47 (d, J=2.4 Hz, 1H), 8.32 (d, J=2.4 Hz, 1H), 6.58 (s, 1H), 2.13-2.07 (m, 1H), 1.14-1.04 (m, 4H).

reactant | 2,6-diiodo-4-nitrophenol | 25.6 mmol, 10 g | IC1=C(C(=CC(=C1)[N+](=O)[O-])I)O | C6H3I2NO3
reactant | ethynylcyclopropane | 28.8 mmol, 1.9 g | C(#C)C1CC1 | C5H6
reactant | water | 1 L | O | H2O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2-cyclopropyl-7-iodo-5-nitro-1-benzofuran | 6.6 g, 78% yield | C1(CC1)C=1OC2=C(C1)C=C(C=C2I)[N+](=O)[O-] | C11H8INO3
